data/oMe_Silver.jsonl
{"reaction_id": "NR-110_1-C(C)C_2-P(=O)(c1ccccc1)c2ccccc2_3-c1ccc(OC)cc1_4-c1ccccc1","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(OC(C)C)(OC(C)C)C(P(=O)(c1ccccc1)c2ccccc2)c1ccc(OC)cc1","O=Cc1ccccc1"],"products_smiles": ["C(c1ccccc1)=C(P(=O)(c1ccccc1)c2ccccc2)c1ccc(OC)cc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(OC(C)C)(OC(C)C)[C-](P(=O)(c1ccccc1)c2ccccc2)c1ccc(OC)cc1","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(OC(C)C)(OC(C)C)C(P(=O)(c1ccccc1)c2ccccc2)(c1ccc(OC)cc1)C([O-])c1ccccc1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)COP1([O-])(OC(C)C)C(P(=O)(c1ccccc1)c2ccccc2)(c1ccc(OC)cc1)C(c1ccccc1)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)=C(P(=O)(c1ccccc1)c2ccccc2)c1ccc(OC)cc1","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
{"reaction_id": "NR-127_1-C(C)(C)C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(C)(C)C","name": "Krapcho Decarboxylation","level": "medium","reactants_smiles": ["C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)OC"],"products_smiles": ["C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)"],"conditions": "[Li+].[Cl-]","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)[O-]","rationale": "Chloride, a good nucleophile in polar aprotic media, attacks the methyl ester, displacing methoxide due to its good leaving group ability and forming a stabilized carboxylate."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C-](C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","rationale": "The carboxylate undergoes heterolytic C–C bond cleavage, driven by CO2 release, as the resulting carbanion is stabilized by adjacent substituents and entropy gain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","rationale": "The carbanion abstracts a proton from the medium, as protonation yields the neutral alkane, which is thermodynamically more stable than the charged species."}],"description": "Under LiCl conditions, chloride acts as a nucleophile to displace the methyl ester group, generating a carboxylate. The carboxylate undergoes decarboxylation due to the instability of the intermediate, yielding the alkane after protonation."}
